US07074798B2
f) 4-[1-(2,2-Dimethylpropionyloxymethyl)-3-ethoxycarbonylmethyl-2,6-dioxo-7-(2-vinylphenyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester
4-[1-(2,2-Dimethylpropionyloxymethyl)-2,6-dioxo-7-(2-vinylphenyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester (80 mg) was dissolved in N,N-dimethylformamide (2 ml), ethyl bromoacetate (19 μl) and potassium carbonate (22 mg) were added to the solution, and the mixture was stirred at room temperature for 14 hours. The reaction mixture was diluted with ethyl acetate and washed with water. The organic layer was dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure to give 89 mg of the title compound

reactant | 4-[1-(2,2-Dimethylpropionyloxymethyl)-2,6-dioxo-7-(2-vinylphenyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 80 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2NC(N(C(C2N1C1=C(C=CC=C1)C=C)=O)COC(C(C)(C)C)=O)=O | C28H36N6O6
reactant | ethyl bromoacetate | 19 μl | BrCC(=O)OCC | C4H7BrO2
reactant | potassium carbonate | 22 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[1-(2,2-Dimethylpropionyloxymethyl)-3-ethoxycarbonylmethyl-2,6-dioxo-7-(2-vinylphenyl)-2,3,6,7-tetrahydro-1H-purin-8-yl]piperazine-1-carboxylic acid tert-butyl ester | 89 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(N(C(C2N1C1=C(C=CC=C1)C=C)=O)COC(C(C)(C)C)=O)=O)CC(=O)OCC | C32H42N6O8
